US04933355
2-p-Anisidinothiazole-4-carbaldehyde
The reaction described in Preparation 44 was repeated, but using 3 g of 2-p-anisidinothiazol-4-yl-methanol, 6.1 g of pyridine sulfur trioxide complex, 5.3 ml of triethylamine and 90 ml of dimethyl sulfoxide, giving the title compound as pale brown crystals.

reactant | 2-p-anisidinothiazol-4-yl-methanol | 3 g | COC1=CC=C(C=C1)NC=1SC=C(N1)CO | C11H12N2O2S
reactant | triethylamine | 5.3 ml | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 90 ml | CS(=O)C | C2H6OS
product | 2-p-Anisidinothiazole-4-carbaldehyde | COC1=CC=C(C=C1)NC=1SC=C(N1)C=O | C11H10N2O2S
